US04448784
4.63 g (0.0193 mole, 1.1 equiv.) 99% NaH was added in one portion to a stirred solution of 19.8 ml (0.175 mole) indoline in 90 ml sieve dried DMSO under nitrogen at room temperature. After 65 minutes, the mixture was cooled in an ice bath and treated dropwise with a solution of 23.43 g (0.193 mole, 1.1 equiv.) 3-fluorobenzonitrile in 34 ml dry DMSO. The product was permitted to stir overnight at room temperature, poured onto 300 ml ice and extracted with CHCl3. The organic layer was washed five times with water (800 ml portions), dried over MgSO4, and concentrated to give 42.75 l g (38.6 g theory) of oil. 2.0 g of the crude product was chromatographed on silica gel (104 g) using ether-hexane thus affording a 0.99 g sample of an oil of pure 3-(1-indolinyl)benzonitrile.

reactant | NaH | 0.0193 mole, 4.63 g, 1.1 equiv. | [H-].[Na+]
reactant | indoline | 0.175 mole, 19.8 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | 3-fluorobenzonitrile | 0.193 mole, 23.43 g, 1.1 equiv. | FC=1C=C(C#N)C=CC1 | C7H4FN
solvent | DMSO | 90 ml | CS(=O)C | C2H6OS
solvent | DMSO | 34 ml | CS(=O)C | C2H6OS
product | 3-(1-indolinyl)benzonitrile | N1(CCC2=CC=CC=C12)C=1C=C(C#N)C=CC1 | C15H12N2
